US07288537B2
A solution of (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol (0.2 g, 0.74 mmol) in dichloromethane (6 ml) is treated with 3,5-dimethoxy-phenyl-isocyanate (0.12 g, 0.667 mmol). The reaction mixture is stirred at ambient temperature for 24 hours and then evaporated. The crude product is purified by flash silica chromatography (elution gradient 3:97 to 7:93 methanol/dichloromethane) to afford 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(3,5-dimethoxy-phenyl)-urea. [MH]+ 449.9.

reactant | (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol | 0.74 mmol, 0.2 g | N[C@H](CO)CCN1CC(C1)OC1=CC=C(C=C1)Cl | C13H19ClN2O2
reactant | 3,5-dimethoxy-phenyl-isocyanate | 0.667 mmol, 0.12 g | COC=1C=C(C=C(C1)OC)N=C=O | C9H9NO3
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 1-{(S)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(3,5-dimethoxy-phenyl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC2=CC(=CC(=C2)OC)OC)C=C1 | C22H28ClN3O5
